US06617336B1
17.6 ml (180 mmol) of boron tribromide are added dropwise, at −30° C., to a solution of 21.2 g (85 mmol) of 2-phenyl-2-methyl-8-methoxyquinoline in 500 ml of methylene chloride. The cooling bath is then removed and the reaction medium is stirred for 3 hours until it has returned to ambient temperature. The reaction mixture is then poured onto ice and the medium is basified using sodium hydrogencarbonate. The medium is subsequently extracted with 3×200 ml of methylene chloride. The organic phases are combined, dried over magnesium sulfate, filtered and evaporated under vacuum. The residue is purified by silica gel chromatography (eluent: ethyl acetate/cyclohexane 3/7) to give 12.7 g of 2-phenyl-3-methyl-8-hydroxyquinoline in the form of a colorless oil. (Yield: 64%)

reactant | boron tribromide | 180 mmol, 17.6 ml | B(Br)(Br)Br | BBr3
reactant | 2-phenyl-2-methyl-8-methoxyquinoline | 85 mmol, 21.2 g | C1(=CC=CC=C1)C1(NC2=C(C=CC=C2C=C1)OC)C | C17H17NO
reactant | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 2-phenyl-3-methyl-8-hydroxyquinoline | 12.7 g, Yield: 64% | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1C)O | C16H13NO
